US05977110
A solution of trans-(4-Amino-cyclohexyl)-acetic acid ethyl ester (Karapavicius K., Palaima A. I., Knunyants I. L., Izv. Akad. Nauk SSSR, Ser. Khim., 1980;10;2374-9) (3.46 g, 18.7 mmol), 2-chloropyrimidine (2.14 g, 18.7 mmol) and triethylamine (5.21 mL) is refluxed in ethanol (EtOH) (10 mL) for 48 hours. The reaction is cooled, and the solvents are removed under reduced pressure. The residue is partitioned between chloroform and 2N aqueous sodium carbonate solution. The organic layer is separated, dried over sodium sulfate, and the solvents are removed under reduced pressure. The residue is chromatographed over silica gel using a mixture of chloroform and methanol to give trans-[4-(pyrimidin-2-ylamino)-cyclohexyl]-acetic acid ethyl ester.

reactant | trans-(4-Amino-cyclohexyl)-acetic acid ethyl ester | 18.7 mmol, 3.46 g | C(C)OC(C[C@@H]1CC[C@H](CC1)N)=O | C10H19NO2
reactant | 2-chloropyrimidine | 18.7 mmol, 2.14 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | triethylamine | 5.21 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | trans-[4-(pyrimidin-2-ylamino)-cyclohexyl]-acetic acid ethyl ester | C(C)OC(C[C@@H]1CC[C@H](CC1)NC1=NC=CC=N1)=O | C14H21N3O2
